US08614234B2
To a mixture of 3-aminophenol (3.7 g, 34.09 mmol) in DMSO (50 mL) was added Cs2CO3 (30.7 g, 94.46 mmol). The mixture stirred for 10 minutes and then 2,4-dichloropyridine (5.0 g, 33.79 mmol) was added. The mixture was stirred at 120° C. for 1.5 h. The mixture was cooled and diluted with water. The aqueous solution was extracted with EtOAc (3×100 mL). The organic extracts were combined, dried over MgSO4 and concentrated to afford a dark oil. The oil was purified via column chromatography, eluting with 30-40% EtOAc/hexanes, to afford 4-(3-Aminophenoxy)-2-chloropyridine (6.63 g, 89%) as a brown solid.

reactant | 3-aminophenol | 34.09 mmol, 3.7 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | Cs2CO3 | 94.46 mmol, 30.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2,4-dichloropyridine | 33.79 mmol, 5.0 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-Aminophenoxy)-2-chloropyridine | 6.63 g, 89% | NC=1C=C(OC2=CC(=NC=C2)Cl)C=CC1 | C11H9ClN2O
